US09163006B2
N-(3,4-dichlorophenyl)-7-[({2-[(dimethylamino)methyl]-1,3-thiazol-4-yl}methyl)oxy]-6-(methyloxy)quinazolin-4-amine
N-{[4-(Chloromethyl)-1,3-thiazol-2-yl]methyl}-N,N-dimethylamine hydrochloride hydrochloride (0.050 g, 0.220 mmol) and 4-[3,4-dichlorophenyl)amino]-6-(methoxy)quinazolin-7-ol (0.074 g, 0.220 mmol) were suspended in DMF (4 mL) and potassium carbonate (0.152 g, 1.10 mmol) was added. The mixture was stirred at room temperature for 50 h and then at 70° C. for 3.5 h. An additional portion of N-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}-N,N-dimethylamine hydrochloride hydrochloride (0.019 g, 0.084 mmol) was added and the mixture was stirred at 70° C. for a further 25 h. The reaction mixture was concentrated in vacuo. and the residue was partitioned between ethyl acetate and brine. The organic portion was washed with 1 N aqueous sodium hydroxide, brine, dried over sodium sulfate, filtered and concentrated in vacuo. to afford a brown solid. Recrystallization from ethyl acetate/diethyl ether afforded the title compound as a pale brown solid (0.016 g, 0.033 mmol, 15% yield). 1H NMR (400 MHz; CDCl3): 2.37 (s, 6H); 3.79 (s, 2H); 4.00 (s, 3H); 5.34 (s, 2H); 7.00 (s, 1H); 7.15 (br s, 1H); 7.34-7.37 (m, 2H); 7.55 (d, 1H); 7.57 (d, 1H); 7.96 (d, 1H); 8.66 (s, 1H); MS (EI) for C22H21Cl2N5O2S: 490 (MH+).

reactant | N-{[4-(Chloromethyl)-1,3-thiazol-2-yl]methyl}-N,N-dimethylamine hydrochloride hydrochloride | 0.220 mmol, 0.050 g | Cl.Cl.ClCC=1N=C(SC1)CN(C)C
reactant | 6-(methoxy)quinazolin-7-ol | 0.220 mmol, 0.074 g | COC=1C=C2C=NC=NC2=CC1O | C9H8N2O2
reactant | potassium carbonate | 1.10 mmol, 0.152 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}-N,N-dimethylamine hydrochloride hydrochloride | 0.084 mmol, 0.019 g | Cl.Cl.ClCC=1N=C(SC1)CN(C)C
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(3,4-dichlorophenyl)-7-[({2-[(dimethylamino)methyl]-1,3-thiazol-4-yl}methyl)oxy]-6-(methyloxy)quinazolin-4-amine | 0.033 mmol, 0.016 g, 15% yield | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1N=C(SC1)CN(C)C | C22H21Cl2N5O2S
